US07700641B2
C. Synthesis of 3-(5-chloro-4-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 3-(5-chloro-4-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained (46%): MS (ES+) m/z 360 (M−17), 400 (M+23).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | 3-(5-chloro-4-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC=1C(=CC(=C(C1)C1C(N(C2=CC=CC=C12)CCCCC)=O)O)F | C19H19ClFNO2
product | 3-(5-chloro-4-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC=1C(=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O)F | C20H21ClFNO3
